US04885283
3.2 g of [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]-4-methylpentyl](phthalimidomethyl)phosphinic acid ethyl ester were treated in a manner analogous to that described in Example 2(A)(i), with the exception that a 0.33M solution of hydrazine hydrate in ethanol was used, to give 2.06 g of (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester acetate in the form of a white foam.

reactant | [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]-4-methylpentyl](phthalimidomethyl)phosphinic acid ethyl ester | 3.2 g | C(C)OP(=O)(CN1C(C=2C(C1=O)=CC=CC2)=O)CC(CC(C)(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O | C26H40N3O6P
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester acetate | 2.06 g | C(C)(=O)O.C(C)OP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN | InChI=1S/C17H36N3O4P.C2H4O2/c1-7-24-25(23,11-18)10-14(8-12(2)3)16(21)20-15(9-13(4)5)17(22)19-6;1-2(3)4/h12-15H,7-11,18H2,1-6H3,(H,19,22)(H,20,21);1H3,(H,3,4)/t14?,15-,25?;/m0./s1
